US08455479B2
To a solution of [(2-amino-benzyl)-tert-butoxycarbonyl-amino]acetic acid methyl ester (640 mg, 2.18 mmol) in toluene (30 mL), was added HOBT (177 mg, 1.31 mmol). The reaction mixture was heated at 100° C. for 24 h. After the completion of reaction, as confirmed by TLC, the solvent was removed in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 7:13 EtOAc:Pet. Ether) to afford pure 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester: (350 mg, 61%) as a solid.

reactant | [(2-amino-benzyl)-tert-butoxycarbonyl-amino]acetic acid methyl ester | 2.18 mmol, 640 mg | COC(CN(C(=O)OC(C)(C)C)CC1=C(C=CC=C1)N)=O | C15H22N2O4
reactant | HOBT | 1.31 mmol, 177 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC=C2)=O | C14H18N2O3
